US05840749
A stirring solution of 127.1 g of potassium hydroxide in 500 ml of 95% ethanol was treated portion wise over several minutes with 59.4 g of 2- [[4-(3-hydroxypropyl)phenoxy]methyl]benzoic acid methyl ester. The resulting solution was allowed to reflux overnight with continued stirring. The product solution was poured into 900 ml of water and the solution was acidified to below pH 2 approximately 200 ml of concentrated hydrochloric acid. The resulting suspension was transferred to a separatory funnel and was partitioned against a total of 1000 ml of ethyl acetate. The primary aqueous phase was discarded and the organic phase was washed with several 500 ml aliquots of water until the pH of the final aqueous phase was neutral. The dried (Na2SO4) organic phase was concentrated in vacuo to a solid which was recrystallized from ethanol/water to give 49.13 g of 2-[[4-(3-hydroxypropyl)phenoxy]methyl]benzoic acid, m.p. 139°-140° C.

reactant | potassium hydroxide | 127.1 g | [OH-].[K+]
reactant | 2- [[4-(3-hydroxypropyl)phenoxy]methyl]benzoic acid methyl ester | 59.4 g | COC(C1=C(C=CC=C1)COC1=CC=C(C=C1)CCCO)=O | C18H20O4
reactant | water | 900 ml | O | H2O
reactant | hydrochloric acid | 200 ml, pH 2 approximately | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-[[4-(3-hydroxypropyl)phenoxy]methyl]benzoic acid | 49.13 g | OCCCC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C17H18O4
